US06130180
3,3,3-Tritluoropropyl(1,2,3,4-tetrahydroisoquinolinyl)dimethoxysilane--A 500 mL round bottomed flask was charged with tetrahydrofuran (300 mL) and isopropyl-magnesium chloride (30 mL of a 2.0 M solution in THF, 60 mmol). The contents were cooled to 15° C. 1,2,3,4-Tetrahydroisoquinoline (60 mmol) was added over fifteen minutes via pressure equalizing addition funnel. The cold bath was removed and the contents stirred for two hours. 3,3,3-Trifluoropropyltrimethoxysilane (54.5 mmol) was added via pressure equalizing addition funnel. The contents were brought to reflux (65-70° C.) for two hours and reaction progress was monitored by GC. Isolation was accomplished by removing the THF via rotary evaporation, taking the residue up in ether (250 mL), filtration and ether removal via rotary evaporation. Purification was accomplished by distillation to provide 3,3,3-trifluoropropyl(1,2,3,4-tetrahydroisoquinolinyl)dimethoxysilane (54 mmol; 99% yield). C14H20NO2SiF3 (mw=319.39) bp=98° C. at 0.3 mmHg; 1H NMR: (CDCl3) δ 7.2-6.9 (m, 4H), 4.2-4.0 (d, 2H), 3.6-3.4 (s, 6H), 3.3-3.1 (dt, 2H), 2.8-2.6 (m, 2H), 2.2-1.9 (m, 2H), 0.9-0.8 (m, 2H); 13C NMR: (CDCl3) δ 135.9, 135.1, 129.4, 128 (quartet J=275 Hz), 126.0, 125.9, 125.8, 50.4, 46.5, 42.1, 29.9, 28 (quartet, J=30 Hz), 2.8; MS: m/z (relative abundance) 319 (38.3), 318 (100), 222 (7.9), 132 (21.0), 104 (21.4), 79 (9.8), 59 (13.4).

reactant | isopropyl-magnesium chloride | C(C)(C)[Mg]Cl
reactant | 1,2,3,4-Tetrahydroisoquinoline | 60 mmol | C1NCCC2=CC=CC=C12 | C9H11N
reactant | 3,3,3-Trifluoropropyltrimethoxysilane | 54.5 mmol | FC(CC[Si](OC)(OC)OC)(F)F | C6H13F3O3Si
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 3,3,3-trifluoropropyl(1,2,3,4-tetrahydroisoquinolinyl)dimethoxysilane | 54 mmol, 99% yield | FC(CC[Si](OC)(OC)C1NCCC2=CC=CC=C12)(F)F | C14H20F3NO2Si
